US04147872
1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropyl)-1,2,5,6-tetrahydropyridine
To a -5° C. solution of 3.0 g. (4.85 mmols.) of 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropyl)-4-piperidinol in 5 ml. of pyridine is slowly added 2.89 g. (24.3 mmols.) of thionyl chloride. The reaction mixture is then allowed to slowly warm to 25° C. and is stirred 12 hours longers. The reaction mixture is quenched by slow addition to 200 ml. of cold 20% potassium carbonate. The quenched mixture is extracted with 250 ml. of ether, the extract washed once with 200 ml. 20% potassium carbonate, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 300 g. silica gel eluted with 50% ether-cyclohexane to yield the title compound.

reactant | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropyl)-4-piperidinol | 4.85 mmols | C(C1=CC=CC=C1)N1CC(C(CC1)(O)CCCC1=CC=CC=C1)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C43H55NO2
reactant | thionyl chloride | 24.3 mmols | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-benzyl-3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-(3-phenylpropyl)-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(=C(CC1)CCCC1=CC=CC=C1)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C43H53NO
